US04831055
Methyl 4-[2-(4-fluorobenzamido)ethoxy]benzoate
Methyl 4-(2-aminoethoxy)benzoate (19.5 g) and 14 g of p-fluorobenzoic acid were dissolved in 300 ml of N,N-dimethylformamide and 20.6 g of N,N'-dicyclohexylcarbodiimide was added thereto little by little with stirring at room temperature. The mixture was stirred for 8 hours, the resulting N,N'-dicyclohexylurea was removed by filtration, the filtrate was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% hydrochloric acid, saturated potassium carbonate solution, and water. This was dried with anhydrous magnesium sulphate, concentrated in vacuo, the residue was crystallised with n-hexane, and the resulting 25.4 g of crystals were recrystallised from ethyl acetate/n-hexane to give 21.3 g (yield: 67%) of crystalline product. M.p. 105°-107° C.

reactant | Methyl 4-(2-aminoethoxy)benzoate | 19.5 g | NCCOC1=CC=C(C(=O)OC)C=C1 | C10H13NO3
reactant | p-fluorobenzoic acid | 14 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | N,N'-dicyclohexylcarbodiimide | 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[2-(4-fluorobenzamido)ethoxy]benzoate | 21.3 g, yield: 67% | FC1=CC=C(C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C17H16FNO4
